US06265421B1
a) 5,7-dihydroxy-4-methyl-3-(1-naphtylmethyl)-2H-1-benzopyran-2-one
A solution of phloroglucinol (0.47 g) and ethyl 2-(1-naphtylmethyl)acetoacetate (1.00 g) in ethanol (20 ml) was treated with dry HCl at 0° C. for 3 hours and the solution kept at that temperature overnight. Solvent was evaporated and the precipitate triturated with water and recrystallized from isopropanol-water (1:1). Yield 0,96 g (78%). Melting point 275-280° C.

reactant | phloroglucinol | 0.47 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | ethyl 2-(1-naphtylmethyl)acetoacetate | 1.00 g | C1(=CC=CC2=CC=CC=C12)CC(C(=O)OCC)C(=O)C | C17H18O3
reactant | HCl | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5,7-dihydroxy-4-methyl-3-(1-naphtylmethyl)-2H-1-benzopyran-2-one | OC1=CC(=CC2=C1C(=C(C(O2)=O)CC2=CC=CC1=CC=CC=C21)C)O | C21H16O4
